US04267176
A mixture of ethyl 2-(4-amino-6-hydroxypyrimidin-2-yl)acetate (15.8 g.) and phosphoryl chloride (75 ml.) was stirred for 4 hours under heating at 80° to 90° C. The resultant solution was allowed to cool and phosphoryl chloride was distilled off. The remaining oily substance was poured into a mixture of ice-water (200 ml.) and ethyl acetate (200 ml.). The resultant mixture was neutralized with an aqueous solution of ammonia and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then the solvent was distilled off. The resultant residue was washed with diisopropyl ether and then dried to give pale brown crystals of ethyl 2-(4-amino-6-chloropyrimidin-2-yl)acetate (8.1 g.), mp. 127° to 128° C.

reactant | ethyl 2-(4-amino-6-hydroxypyrimidin-2-yl)acetate | 15.8 g | NC1=NC(=NC(=C1)O)CC(=O)OCC | C8H11N3O3
reactant | phosphoryl chloride | 75 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-(4-amino-6-chloropyrimidin-2-yl)acetate | 8.1 g | NC1=NC(=NC(=C1)Cl)CC(=O)OCC | C8H10ClN3O2
